US04904675
2-(2-Benzothiazolyl)-5-carboxy-pyridine
Sodium (7.7 mmol) is added to a flask containing 70 ml of ethanol. As soon as the sodium has dissolved, 7 mmol of 5-carboxy-2-cyanopyridine and 8.4 mmol of 2-amino-thiophenol are added and the solution is refluxed for 24 h. The solid formed is filtered off, redissolved in ethanol and water, the solution is made acidic (pH=3) with 2N HCl and evaporated. The residue is dissolved in 100 ml of hot ethyl acetate, the salts are filtered off and the filtrate on cooling gives crystals of the title compound, m.p. >300°.

reactant | Sodium | 7.7 mmol | [Na] | Na
reactant | 5-carboxy-2-cyanopyridine | 7 mmol | C(=O)(O)C=1C=CC(=NC1)C#N | C7H4N2O2
reactant | 2-amino-thiophenol | 8.4 mmol | NC1=C(C=CC=C1)S | C6H7NS
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-(2-Benzothiazolyl)-5-carboxy-pyridine | S1C(=NC2=C1C=CC=C2)C2=NC=C(C=C2)C(=O)O | C13H8N2O2S
